US03966746
2.35 g of 4-ethoxy-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester (0.01 mol) is treated with 2.2 g of butylamine (0.03 mol) at 90° for 1 hour. After this period the mixture is cooled, diluted with 20 ml of water and the white crystalline precipitate is filtered off. Recrystallization from diethyl ether yields 1.7 g of 4-butylamino-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester (72%), m.p. 181°.

reactant | 4-ethoxy-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester | 0.01 mol, 2.35 g | C(C)OC(=O)C=1C(=C2C(=NC1)NN=C2)OCC | C11H13N3O3
reactant | butylamine | 0.03 mol, 2.2 g | C(CCC)N | C4H11N
solvent | water | 20 ml | O | H2O
product | 4-butylamino-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester | 1.7 g, 72% | C(C)OC(=O)C=1C(=C2C(=NC1)NN=C2)NCCCC | C13H18N4O2
